Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Shellfish Derived / Demerol
 
Attending: ___.
 
Chief Complaint:
Erectile Dysfunction
 
Major Surgical or Invasive Procedure:
Insertion of Ambicor 2-peice inflatable penile prosthesis - Dr. 
___ ___

 
Past Medical History:
Pt states he has been hospitalized 67 times since ___- last 
prior to 3 days ago was ___.  
1. CARDIAC RISK FACTORS: none  
2. CARDIAC HISTORY:  
a fib s/p radiofrquency ablations ___ maze ___ at 
least 5 cardioversions  
sick sinus syndrome s/p pacemaker placement ___  
CAD s/p RCA stent ___  
Borderline ascending aortic diameter 3.6 cm  
3. OTHER PAST MEDICAL HISTORY:  
subarachnoid hemorrhage in ___  
embolic strokex3 in ___ and 2 in ___  
TIA- pt reports >4 dozen. Last in ___  
frequent sinus infections and rhinoplasty with deviated septal 
repair in pt's ___s  
bipolar disorder  
insomnia  
anxiety and panic disorder  
RLS- acting up in last ___ wks  
OA of knees and hips  

 
Social History:
___
Family History:
notable for a mother who died at age ___ with breast cancer and 
had diabetes mellitus. His father died at age ___ from an 
automobile accident and survived a ruptured aortic aneurysm per 
Mr. ___ report. States every male on his maternal side 
died of a "heart condition" prior to ___ yrs old. Has 2 sisters 
aged ___ and healthy and ___ with breast ca. 
 
Physical Exam:
NAD
Soft, NT, ND
GU: no hematoma
 
Pertinent Results:
INR: 1.___dmitted to Urology floor service from the PACU. Op note 
dictated separately. Recieved Vancomycin and gent POD0 O/N.  The 
vancomycin continued throughout stay. He had a Hemo-Vac drain in 
the scrotum overlying the corporotomy, which was removed POD #2 
after starting Lovenox 80mg SC as a bridge to his coumadin. The 
coumadin was restarted at reduced dose (2mg) on POD0.
___ POD1 the patient developed "chest pain" consistent with his 
AFib/flutter. An EKG showed a paced/sinus rhythem. Caridology 
was consulted, enzymes trended normal and nothing more was 
necessary. He will complete 3 days Augmentin and resume Aspirin 
in 4 days. His INR and Lovenox bridge management will return to 
his primary provider. He will follow up with Dr. ___ in 3 
days for would check.
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever or pain.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 10 days.
Disp:*20 Capsule(s)* Refills:*0*
3. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO at bedtime for 5 
days.
Disp:*10 Tablet(s)* Refills:*0*
4. Alprazolam 0.25 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day) as needed for anxiety, insomnia.  
5. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
6. Bupropion HCl 150 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO QAM (once a day (in the morning)).  
7. Escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Lithium Carbonate 300 mg Capsule Sig: One (1) Capsule PO QDAY 
().  
10. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
11. Pramipexole 0.125 mg Tablet Sig: One (1) Tablet PO QHS (once 
a day (at bedtime)).  
12. Dofetilide 500 mcg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
13. Vytorin ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
14. Augmentin 500-125 mg Tablet Sig: One (1) Tablet PO three 
times a day for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
15. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*10 Tablet(s)* Refills:*0*
16. Lovenox 80 mg/0.8 mL Syringe Sig: One (1) syringe 
Subcutaneous once a day.  
17. Aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day: 
Resume in 4 days.  
18. Tramadol 50 mg Tablet Sig: One (1) Tablet PO four times a 
day as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Erectile Dysfunction

 
Discharge Condition:
Stable

 
Discharge Instructions:
-Resume Lovenox.
-Resume coumadin, but realize the dosage has been reduced - you 
will need tight supervision of your INR by your primary care 
doctor following surgery.
-Resume your aspirin in 4 days.

-Do not pull down on implanted bulbs in scrotum

-Do not use prosthesis for 6 weeks

-Complete a 4 day course of Augmentin (antibiotic)

-You may shower, but do not bathe, swim or otherwise immerse 
your incision.

-Do not lift anything heavier than a phone book. 

-Do not drive or drink alcohol while taking narcotic pain 
medication. 

-Resume all of your home medications. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___